US07807676B2
To a suspension of 1-(7-(2-(1,3-dioxolan-2-yl)thiazol-4-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.305 g, 0.519 mmol) in H2O (2 mL, 111 mmol) was added TFA (1 mL, 12.98 mmol). The mixture was heated to 70° C. After 18 h of heating, the mixture was cooled to rt, and was stirred at rt for an additional 20 h. The mixture was concentrated under reduced pressure. The residue was dissolved in dichloromethane and was partitioned with sat. NaHCO3. The mixture was extracted with dichloromethane (3×10 mL) and was dried with Na2SO4. The drying agent was removed by filtration. The organic solution was concentrated under reduced pressure, and the resulting mixture was purified by flash chromatography (0 to 5% methanol in dichloromethane gradient). The product, 4-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)thiazole-2-carbaldehyde (0.103 g, 0.189 mmol, 36.5% yield) was collected as a light-yellow solid.

reactant | 1-(7-(2-(1,3-dioxolan-2-yl)thiazol-4-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.519 mmol, 0.305 g | O1C(OCC1)C=1SC=C(N1)C=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)OC | C27H25N9O5S
reactant | H2O | 111 mmol, 2 mL | O | H2O
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)thiazole-2-carbaldehyde | 0.189 mmol, 0.103 g, 36.5% yield | COC1=C2C(=C(N=C1)C=1N=C(SC1)C=O)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C25H21N9O4S
